US06140100
According to example 54, 0.65 g of 3-cyclobutyl-L-phenylalanine·HCl was treated with 25 mL of isobutylene in 25 mL of 1,4-dioxane in the presence of 0.5 mL of conc. H2SO4. Work-up in the usual manner followed by acidification of the free amine with ethereal HCl afforded 0.64 g (81%) of tert-butyl 3-cyclobutyl-L-phenylalaninate·HCl as a white powder, m.p. 173-174° C.

reactant | 3-cyclobutyl-L-phenylalanine·HCl | 0.65 g | C1(CCC1)C=1C=C(C[C@H](N)C(=O)O)C=CC1.Cl
reactant | isobutylene | 25 mL | CC(C)=C | C4H8
reactant | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3-cyclobutyl-L-phenylalaninate·HCl | 0.64 g, 81% | C1(CCC1)C=1C=C(C[C@H](N)C(=O)OC(C)(C)C)C=CC1.Cl | InChI=1S/C17H25NO2.ClH/c1-17(2,3)20-16(19)15(18)11-12-6-4-9-14(10-12)13-7-5-8-13;/h4,6,9-10,13,15H,5,7-8,11,18H2,1-3H3;1H/t15-;/m0./s1
